US07507740B2
(ii) Production of 5-bromo-3-hydroxy-3-methylpentyl benzoate
To a solution of 3,5-dihydroxy-3-methylpentyl benzoate (1.0 g) and carbon tetrabromide (2.78 g) in tetrahydrofuran (30 mL) was added dropwise a solution of triphenylphosphine (2.20 g) in tetrahydrofuran (10 mL) under ice-cooling. After stirring at room temperature for 3 days, water was added, and the mixture was extracted with ethyl acetate. The organic layer washed with saturated brine, dried over magnesium sulfate and concentrated under reduced pressure, and the residue was separated and purified by silica gel column chromatography (eluent, hexane:ethyl acetate=9:1→6:4) to give the title compound (979 mg) as a colorless oil.

reactant | 3,5-dihydroxy-3-methylpentyl benzoate | 1.0 g | C(C1=CC=CC=C1)(=O)OCCC(CCO)(C)O | C13H18O4
reactant | carbon tetrabromide | 2.78 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 2.20 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 5-bromo-3-hydroxy-3-methylpentyl benzoate | 979 mg | C(C1=CC=CC=C1)(=O)OCCC(CCBr)(C)O | C13H17BrO3
